US04124704
In 200 ml. of glyme are placed 28.6 g. (0.159 mole) of ethyl (4-hydroxyphenyl)acetate, 37.2 g. (0.159 mole) of 4-chloro-α-bromoacetophenone and 28.6 g. of potassium carbonate. The mixture is heated at its reflux temperature for five hours, then diluted with water and diethyl ether. The ether layer is washed with water, cold 0.5N sodium hydroxide solution and saturated sodium chloride solution and treated with decolorizing charcoal, then dried. The solution is evaporated to provide a residue which is recrystallized from methanol yielding 24.4 g. of yellow crystals of condensation product, m.p. 87°-92° C. This product is mixed with 165 g. of polyphosphoric acid and heated at 110° C. for 1.5 hours. The mixture is poured into ice and water. This mixture is extracted with diethyl ether. The ether layer is washed with water and saturated sodium chloride solution, then dried. Evaporation provides 20.7 g. of ethyl 3-(4-chlorophenyl)-5-benzofuranacetate. This ester is hydrolyzed in 210 ml. of ethanol with 21 ml. of water and 20.7 g. of sodium hydroxide by heating at reflux for two hours. The solution is evaporated, and the residue is partitioned into water and diethyl ether. The water layer is poured into cold dilute hydrochloric acid to provide a yellow, gummy solid. The solid is dissolved in diethyl ether. The ether layer is washed with water and saturated sodium chloride solution, then dried. Evaporation provides a solid which is recrystallized twice from aqueous ethanol, then from benzene to yield 3-(4-chlorophenyl)-5-benzofuranacetic acid, m.p. 136°-140° C.

reactant | ethyl (4-hydroxyphenyl)acetate | 0.159 mole | OC1=CC=C(C=C1)CC(=O)OCC | C10H12O3
reactant | 4-chloro-α-bromoacetophenone | 0.159 mole | C1=CC(=CC=C1C(=O)CBr)Cl | C8H6BrClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-(4-chlorophenyl)-5-benzofuranacetate | ClC1=CC=C(C=C1)C1=CC=2C(C=CC2)=C(O1)CC(=O)OCC | C18H15ClO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
solvent | glyme | C(OC)COC | C4H10O2
product | 3-(4-chlorophenyl)-5-benzofuranacetic acid | ClC1=CC=C(C=C1)C1=CC=2C(C=CC2)=C(O1)CC(=O)O | C16H11ClO3
